*
*|DSPF 1.5
*
*|DATE "Sun Jan 14 12:54:38 2024"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Quantus Extraction"
*|VERSION "22.1.0-p089 Linux 64 bit - (Thu Jan 19 11:47:08 PST 2023)"
*|DESIGN "AOI221X2"
*|DIVIDER /
*|DELIMITER #
*|DeviceFingerDelim "@"
*|BUSBIT []
*|GLOBAL_TEMPERATURE 25
*|OPERATING_TEMPERATURE 25
** QRC_TECH_DIR /vols/wfo_devel/projects/reference_SKY130/tech/sky130_release_0.0.1/quantus/extraction/typical 
** caps2d version: 10
*
.GLOBAL VDD VSS
*
.SUBCKT  AOI221X2 A0 A1 B0 B1 C0 Y
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET A0 5.74549e-16
*|P (A0 X 0 0.4720 1.8370)
*|I (MX37/M0#g MX37/M0 g X 0 0.4750 0.9700)
*|I (MX37/M1#g MX37/M1 g X 0 0.9050 0.9700)
*|I (MX33/M0#g MX33/M0 g X 0 0.4750 2.9850)
*|I (MX33/M1#g MX33/M1 g X 0 0.9050 2.9850)
*|S (A0#13 0.9050 2.0950)
*|S (A0#14 0.6900 2.0950)
*|S (A0#15 0.4650 2.0950)
*|S (A0#17 0.4600 2.0950)
C1 MX33/M1#g VSS 6.10111e-17
C2 MX33/M0#g VSS 6.51917e-17
C3 MX37/M1#g VSS 5.04901e-17
C4 MX37/M0#g VSS 5.08704e-17
C5 A0#14 VSS 1.43629e-16
C6 A0 VSS 2.03357e-16
Rg1 MX33/M1#g A0#13 279.812103 $W=0.15
Rg2 A0#13 A0#14 20.521515 $W=0.33
Rg3 A0#14 A0#15 20.521515 $W=0.33
Rg4 A0#15 MX37/M0#g 354.538055 $W=0.15
Rg5 A0#13 MX37/M1#g 354.538055 $W=0.15
Rg6 A0#15 MX33/M0#g 279.812103 $W=0.15
Rf7 A0#14 A0#17 24.817646 $W=0.17
Re8 A0 A0#17 152.124039 $W=0.26
*
*|NET A1 6.40823e-16
*|P (A1 X 0 1.3920 2.0460)
*|I (MX36/M0#g MX36/M0 g X 0 1.3350 0.9700)
*|I (MX36/M1#g MX36/M1 g X 0 1.7650 0.9700)
*|I (MX34/M0#g MX34/M0 g X 0 1.3350 2.9850)
*|I (MX34/M1#g MX34/M1 g X 0 1.7650 2.9850)
*|S (A1#13 1.7650 1.6250)
*|S (A1#14 1.5500 1.6250)
*|S (A1#15 1.3250 1.6250)
*|S (A1#17 1.3800 1.6250)
C7 MX34/M1#g VSS 5.86245e-17
C8 MX34/M0#g VSS 6.22068e-17
C9 MX36/M1#g VSS 5.55851e-17
C10 MX36/M0#g VSS 4.90661e-17
C11 A1#17 VSS 9.78731e-17
C12 A1#14 VSS 1.68137e-16
C13 A1 VSS 1.49331e-16
Rg9 MX34/M1#g A1#13 430.838745 $W=0.15
Rg10 A1#13 A1#14 20.521515 $W=0.33
Rg11 A1#14 A1#15 20.521515 $W=0.33
Rg12 A1#15 MX36/M0#g 203.511398 $W=0.15
Rg13 A1#13 MX36/M1#g 203.511398 $W=0.15
Rg14 A1#15 MX34/M0#g 430.838745 $W=0.15
Rf15 A1#14 A1#17 20.299999 $W=0.17
Re16 A1 A1#17 152.202408 $W=0.26
*
*|NET B0 5.68942e-16
*|P (B0 X 0 3.2320 2.0610)
*|I (MX39/M0#g MX39/M0 g X 0 3.5750 0.9700)
*|I (MX39/M1#g MX39/M1 g X 0 4.0050 0.9700)
*|I (MX32/M0#g MX32/M0 g X 0 3.0550 2.9850)
*|I (MX32/M1#g MX32/M1 g X 0 3.4850 2.9850)
*|S (B0#13 3.5750 1.6100)
*|S (B0#14 3.4550 2.0950)
*|S (B0#15 3.0550 2.0950)
*|S (B0#16 3.2200 2.0950)
C14 MX32/M1#g VSS 7.67189e-17
C15 MX32/M0#g VSS 6.65376e-17
C16 MX39/M1#g VSS 6.37098e-17
C17 MX39/M0#g VSS 5.5824e-17
C18 B0#15 VSS 7.97626e-17
C19 B0 VSS 2.26389e-16
Rg17 MX39/M1#g B0#13 302.839142 $W=0.15
Rg18 B0#13 B0#14 170.441895 $W=0.15
Rg19 B0#14 B0#15 105.992821 $W=0.15
Rg20 B0#13 MX39/M0#g 203.808365 $W=0.15
Rg21 B0#14 MX32/M1#g 278.243347 $W=0.15
Rg22 B0#15 MX32/M0#g 262.947052 $W=0.15
Rf23 B0#16 B0#15 27.423529 $W=0.17
Re24 B0 B0#16 152.016342 $W=0.26
*
*|NET B1 5.63638e-16
*|P (B1 X 0 2.3120 2.0650)
*|I (MX38/M0#g MX38/M0 g X 0 2.7150 0.9700)
*|I (MX38/M1#g MX38/M1 g X 0 3.1450 0.9700)
*|I (MX35/M0#g MX35/M0 g X 0 2.1950 2.9850)
*|I (MX35/M1#g MX35/M1 g X 0 2.6250 2.9850)
*|S (B1#13 2.7450 1.6250)
*|S (B1#14 2.6250 2.0950)
*|S (B1#15 2.1950 2.0950)
*|S (B1#16 2.3000 2.0950)
C20 MX35/M1#g VSS 7.04156e-17
C21 MX35/M0#g VSS 6.73586e-17
C22 MX38/M1#g VSS 5.65534e-17
C23 MX38/M0#g VSS 5.7178e-17
C24 B1#16 VSS 2.39398e-16
C25 B1#15 VSS 7.27344e-17
Rg25 MX38/M1#g B1#13 316.886871 $W=0.15
Rg26 B1#13 B1#14 165.621902 $W=0.15
Rg27 B1#14 B1#15 96.765068 $W=0.15
Rg28 B1#13 MX38/M0#g 202.730011 $W=0.15
Rg29 B1#14 MX35/M1#g 284.141693 $W=0.15
Rg30 B1#15 MX35/M0#g 262.947052 $W=0.15
Rf31 B1#16 B1#15 22.905882 $W=0.17
Re32 B1 B1#16 152.014420 $W=0.26
*
*|NET C0 6.03867e-16
*|P (C0 X 0 4.6120 2.0700)
*|I (MX31/M0#g MX31/M0 g X 0 4.9550 0.9700)
*|I (MX31/M1#g MX31/M1 g X 0 5.3850 0.9700)
*|I (MX30/M0#g MX30/M0 g X 0 4.9550 2.9850)
*|I (MX30/M1#g MX30/M1 g X 0 5.3850 2.9850)
*|S (C0#13 5.3850 2.0950)
*|S (C0#14 5.1700 2.0950)
*|S (C0#15 4.9450 2.0950)
*|S (C0#17 4.6000 2.0950)
C26 MX30/M1#g VSS 6.9258e-17
C27 MX30/M0#g VSS 6.64939e-17
C28 MX31/M1#g VSS 5.09572e-17
C29 MX31/M0#g VSS 5.07508e-17
C30 C0#17 VSS 4.59347e-17
C31 C0#14 VSS 1.13019e-16
C32 C0 VSS 2.07454e-16
Rg33 MX30/M1#g C0#13 279.812103 $W=0.15
Rg34 C0#13 C0#14 20.521515 $W=0.33
Rg35 C0#14 C0#15 20.521515 $W=0.33
Rg36 C0#15 MX31/M0#g 354.538055 $W=0.15
Rg37 C0#13 MX31/M1#g 354.538055 $W=0.15
Rg38 C0#15 MX30/M0#g 279.812103 $W=0.15
Rf39 C0#14 C0#17 50.417648 $W=0.17
Re40 C0 C0#17 152.012024 $W=0.26
*
*|NET Y 1.86657e-15
*|P (Y X 0 5.5920 1.8330)
*|I (MX39/M0#d MX39/M0 d X 0 3.6505 0.9700)
*|I (MX39/M1#s MX39/M1 s X 0 3.9295 0.9700)
*|I (MX36/M0#d MX36/M0 d X 0 1.4105 0.9700)
*|I (MX36/M1#s MX36/M1 s X 0 1.6895 0.9700)
*|I (MX31/M0#s MX31/M0 s X 0 4.8795 0.9700)
*|I (MX31/M1#d MX31/M1 d X 0 5.4605 0.9700)
*|I (MX30/M0#d MX30/M0 d X 0 5.0305 2.9850)
*|I (MX30/M1#s MX30/M1 s X 0 5.3095 2.9850)
*|S (Y#1 1.5500 1.0450)
*|S (Y#3 3.7900 1.0450)
*|S (Y#6 4.7400 0.7800)
*|S (Y#8 5.1700 2.7550)
*|S (Y#10 5.6000 0.9600)
C33 MX30/M0#d VSS 1.12972e-18
C34 MX36/M0#d VSS 1.45146e-16
C35 MX39/M0#d VSS 1.28557e-16
C36 Y#1 VSS 2.93991e-16
C37 Y#3 VSS 3.28363e-16
C38 Y#6 VSS 2.74258e-16
C39 Y#8 VSS 4.14824e-16
C40 Y#10 VSS 1.88243e-16
C41 Y VSS 9.20544e-17
Rf41 Y#1 MX36/M0#d 13.147058 $W=0.17
Rf42 Y#3 MX39/M0#d 165.147064 $W=0.17
Rf43 MX31/M0#s Y#6 173.805878 $W=0.17
Rf44 MX30/M0#d Y#8 11.400000 $W=0.46
Rf45 MX31/M1#d Y#10 83.750977 $W=0.51
Re46 Y#3 Y#6 0.896114 $W=0.14
Re47 Y#3 Y#1 153.893784 $W=0.14
Re48 Y#6 Y#10 0.425776 $W=0.26
Re49 Y#10 Y 0.335769 $W=0.325
Re50 Y Y#8 76.365967 $W=0.26
Rmw51 MX39/M1#s MX39/M0#d 0.001000 $W=1000000
Rmw52 MX36/M1#s MX36/M0#d 0.001000 $W=1000000
Rmw53 MX30/M1#s MX30/M0#d 0.001000 $W=1000000
*
*|NET 1 1.46015e-15
*|I (MX35/M0#s MX35/M0 s X 0 2.1195 2.9850)
*|I (MX35/M1#d MX35/M1 d X 0 2.7005 2.9850)
*|I (MX34/M0#s MX34/M0 s X 0 1.2595 2.9850)
*|I (MX34/M1#d MX34/M1 d X 0 1.8405 2.9850)
*|I (MX33/M0#s MX33/M0 s X 0 0.3995 2.9850)
*|I (MX33/M1#d MX33/M1 d X 0 0.9805 2.9850)
*|I (MX32/M0#s MX32/M0 s X 0 2.9795 2.9850)
*|I (MX32/M1#d MX32/M1 d X 0 3.5605 2.9850)
*|S (1#2 0.2600 2.9650)
*|S (1#4 1.1200 2.9650)
*|S (1#6 1.9800 2.9650)
*|S (1#8 2.8400 2.9650)
*|S (1 3.7000 2.9650)
C42 MX32/M1#d VSS 1.49031e-16
C43 MX33/M0#s VSS 1.55715e-16
C44 MX34/M0#s VSS 1.82373e-16
C45 MX35/M1#d VSS 2.01665e-16
C46 MX35/M0#s VSS 1.87477e-16
C47 1#2 VSS 9.09796e-17
C48 1#4 VSS 1.08575e-16
C49 1#6 VSS 1.11016e-16
C50 1#8 VSS 1.52577e-16
C51 1 VSS 1.20738e-16
Rf54 MX33/M0#s 1#2 6.505882 $W=0.17
Rf55 MX34/M0#s 1#4 158.505890 $W=0.17
Rf56 MX35/M0#s 1#6 158.505890 $W=0.17
Rf57 MX35/M1#d 1#8 158.505890 $W=0.17
Rf58 MX32/M1#d 1 6.505882 $W=0.17
Re59 1 1#8 152.632355 $W=0.17
Re60 1#8 1#6 0.632353 $W=0.17
Re61 1#6 1#4 0.632353 $W=0.17
Re62 1#4 1#2 152.632355 $W=0.17
Rmw63 MX34/M1#d MX35/M0#s 0.001000 $W=1000000
Rmw64 MX33/M1#d MX34/M0#s 0.001000 $W=1000000
Rmw65 MX32/M0#s MX35/M1#d 0.001000 $W=1000000
*
*|NET 2 1.3086e-15
*|I (MX35/M0#d MX35/M0 d X 0 2.2705 2.9850)
*|I (MX35/M1#s MX35/M1 s X 0 2.5495 2.9850)
*|I (MX32/M0#d MX32/M0 d X 0 3.1305 2.9850)
*|I (MX32/M1#s MX32/M1 s X 0 3.4095 2.9850)
*|I (MX30/M0#s MX30/M0 s X 0 4.8795 2.9850)
*|I (MX30/M1#d MX30/M1 d X 0 5.4605 2.9850)
*|S (2 2.4100 3.3250)
*|S (2#3 3.2700 3.3250)
*|S (2#5 4.7400 3.3250)
*|S (2#7 5.6000 3.3250)
C52 MX30/M1#d VSS 1.45713e-16
C53 MX30/M0#s VSS 1.51768e-16
C54 MX32/M0#d VSS 2.03111e-16
C55 MX35/M0#d VSS 2.06579e-16
C56 2#3 VSS 2.14751e-16
C57 2#5 VSS 1.57783e-16
C58 2#7 VSS 1.1094e-16
C59 2 VSS 1.17952e-16
Rf66 2 MX35/M0#d 30.600000 $W=0.17
Rf67 2#3 MX32/M0#d 182.600006 $W=0.17
Rf68 2#5 MX30/M0#s 182.600006 $W=0.17
Rf69 2#7 MX30/M1#d 30.600000 $W=0.17
Re70 2#7 2#5 152.632355 $W=0.17
Re71 2#5 2#3 1.080882 $W=0.17
Re72 2#3 2 152.632355 $W=0.17
Rmw73 MX35/M1#s MX35/M0#d 0.001000 $W=1000000
Rmw74 MX32/M1#s MX32/M0#d 0.001000 $W=1000000
*
*|NET 17 7.61624e-16
*|I (MX37/M0#s MX37/M0 s X 0 0.3995 0.9700)
*|I (MX37/M1#d MX37/M1 d X 0 0.9805 0.9700)
*|I (MX36/M0#s MX36/M0 s X 0 1.2595 0.9700)
*|I (MX36/M1#d MX36/M1 d X 0 1.8405 0.9700)
*|S (17#2 0.2600 0.6750)
*|S (17#4 1.1200 0.6750)
*|S (17 1.9800 0.6750)
C60 17#2 VSS 2.16948e-16
C61 17#4 VSS 2.82482e-16
C62 17 VSS 2.62195e-16
Rf75 MX37/M0#s 17#2 29.711765 $W=0.17
Rf76 MX37/M1#d 17#4 181.711761 $W=0.17
Rf77 MX36/M1#d 17 29.711765 $W=0.17
Re78 17 17#4 152.632355 $W=0.17
Re79 17#4 17#2 152.632355 $W=0.17
Rmw80 MX36/M0#s MX37/M1#d 0.001000 $W=1000000
*
*|NET 18 8.30221e-16
*|I (MX39/M0#s MX39/M0 s X 0 3.4995 0.9700)
*|I (MX39/M1#d MX39/M1 d X 0 4.0805 0.9700)
*|I (MX38/M0#s MX38/M0 s X 0 2.6395 0.9700)
*|I (MX38/M1#d MX38/M1 d X 0 3.2205 0.9700)
*|S (18 2.5000 0.9700)
*|S (18#2 2.5000 0.6750)
*|S (18#4 3.3600 0.6750)
*|S (18#6 4.2200 0.6750)
C63 MX39/M1#d VSS 2.00701e-18
C64 MX39/M0#s VSS 1.7414e-18
C65 18#2 VSS 2.54426e-16
C66 18#4 VSS 3.01189e-16
C67 18#6 VSS 2.68602e-16
C68 18 VSS 2.25471e-18
Rf81 18 18#2 29.711765 $W=0.17
Rf82 MX39/M0#s 18#4 181.711761 $W=0.17
Rf83 MX39/M1#d 18#6 29.711765 $W=0.17
Re84 18#6 18#4 152.632355 $W=0.17
Re85 18#4 18#2 152.632355 $W=0.17
Rmw86 MX38/M0#s 18 0.001000 $W=1000000
Rmw87 MX38/M1#d MX39/M0#s 0.001000 $W=1000000
*
*Instance Section
*
MX39/M0	MX39/M0#d	MX39/M0#g	MX39/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX39/M1	MX39/M1#d	MX39/M1#g	MX39/M1#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX38/M0	VSS	MX38/M0#g	MX38/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX38/M1	MX38/M1#d	MX38/M1#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX37/M0	VSS	MX37/M0#g	MX37/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX37/M1	MX37/M1#d	MX37/M1#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX36/M0	MX36/M0#d	MX36/M0#g	MX36/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX36/M1	MX36/M1#d	MX36/M1#g	MX36/M1#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX31/M0	VSS	MX31/M0#g	MX31/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX31/M1	MX31/M1#d	MX31/M1#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX35/M0	MX35/M0#d	MX35/M0#g	MX35/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX35/M1	MX35/M1#d	MX35/M1#g	MX35/M1#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX34/M0	VDD	MX34/M0#g	MX34/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX34/M1	MX34/M1#d	MX34/M1#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX33/M0	VDD	MX33/M0#g	MX33/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX33/M1	MX33/M1#d	MX33/M1#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX32/M0	MX32/M0#d	MX32/M0#g	MX32/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX32/M1	MX32/M1#d	MX32/M1#g	MX32/M1#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX30/M0	MX30/M0#d	MX30/M0#g	MX30/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX30/M1	MX30/M1#d	MX30/M1#g	MX30/M1#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
.ENDS
